US07326790B2
The method of Schoenenberger, Archiv. der Pharmazie, 1975, 308(9), 717-719 can be employed. 4-Nitrobenzaldehyde can be reacted with nitromethane and base, followed by selective reduction of the aliphatic nitro group to yield 1-amino-2-hydroxy-2-(4-nitrophenyl) ethane. This substance can be reacted with 2,6-dichlorobenzaldehyde to yield a mixture of cis-(±) and trans-(±)-2-(2,6-dichlorophenyl)-5-(4-nitrophenyl)-1,3-oxazolidines. The nitrophenyl group can be reduced with tin (II) dichloride or iron powder and ammonium chloride to yield the corresponding aniline. This aniline can be reacted with 2,2-dichloroacetyl chloride and triethylamine to yield a mixture of cis-(±) and trans-(±)-2,2-dichloro-N-[4-[2-(2,6-dichlorophenyl)-5-(1,3-oxazolidinyl)]phenyl]acetamides.

reactant | 4-Nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 1-amino-2-hydroxy-2-(4-nitrophenyl) ethane | NCC(C1=CC=C(C=C1)[N+](=O)[O-])O | C8H10N2O3
